US08871934B2
2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrazol-1-yl]-propionic acid ethyl ester
To a suspension of 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole (21.3 g) and potassium carbonate (20.7 g) in dimethylformamide (100 ml) was added 2-bromo-propionic acid ethyl ester (13 ml) and the mixture was stirred at 80° C. for 14 hr. The reaction mixture was cooled to 0° C., and toluene (100 ml) and water (150 ml) were successively added dropwise. The mixture was partitioned, and the aqueous layer was extracted with toluene (50 ml). The combined organic layer was successively washed once with 10% aqueous potassium carbonate (50 ml), twice with water (50 ml) and once with saturated brine (50 ml), dried over anhydrous sodium sulfate, and concentrated under reduced pressure to give the title compound (21.6 g).

reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole | 21.3 g | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
reactant | potassium carbonate | 20.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-propionic acid ethyl ester | 13 ml | C(C)OC(C(C)Br)=O | C5H9BrO2
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | 150 ml | O | H2O
product | 2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrazol-1-yl]-propionic acid ethyl ester | 21.6 g | C(C)OC(C(C)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C)=O | C14H23BN2O4
